* Extracted by KLayout with SG13G2 LVS runset on : 23/03/2026 16:39

.SUBCKT OTA_Telescopic_TOP_wp VSS IB|I_P2 IB|I_P3 VOUT VDD VOUT$1 IB|I_P
+ CMFB|CMFBout VREF IBIAS|I_N CMFB|CMFBin VN VP VINP|VPin VINN|VNin
+ VIN|VINP|VOUTN|VOUTP VIN|VINN|VOUTN|VOUTP VNout VPout
M$1 IBIAS|I_N \$4 VSS VSS sg13_lv_nmos L=6.4u W=12u AS=3.18p AD=3.18p PS=19.06u
+ PD=19.06u
M$3 \$8 \$4 \$2 VSS sg13_lv_nmos L=6.4u W=96u AS=20.04p AD=20.04p PS=114.68u
+ PD=114.68u
M$11 VOUT IB|I_P2 VSS VSS sg13_lv_nmos L=1u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$12 \$7 IB|I_P2 VSS VSS sg13_lv_nmos L=1u W=9u AS=2.16p AD=2.16p PS=13.44u
+ PD=13.44u
M$15 VSS IB|I_P2 IB|I_P2 VSS sg13_lv_nmos L=1u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$16 IB|I_P3 IB|I_P3 VSS VSS sg13_lv_nmos L=1u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$17 VSS IB|I_P3 \$9 VSS sg13_lv_nmos L=1u W=9u AS=2.16p AD=2.16p PS=13.44u
+ PD=13.44u
M$20 VSS IB|I_P3 VOUT$1 VSS sg13_lv_nmos L=1u W=3u AS=1.02p AD=1.02p PS=6.68u
+ PD=6.68u
M$21 \$7 VOUT \$28 VSS sg13_lv_nmos L=0.5u W=160u AS=33.4p AD=30.4p PS=186.68u
+ PD=166.08u
M$29 \$7 VIN|VINP|VOUTN|VOUTP \$25 VSS sg13_lv_nmos L=0.5u W=160u AS=30.4p
+ AD=33.4p PS=166.08u PD=186.68u
M$37 \$9 VIN|VINN|VOUTN|VOUTP \$26 VSS sg13_lv_nmos L=0.5u W=160u AS=33.4p
+ AD=30.4p PS=186.68u PD=166.08u
M$45 \$9 VOUT$1 \$27 VSS sg13_lv_nmos L=0.5u W=160u AS=30.4p AD=33.4p
+ PS=166.08u PD=186.68u
M$53 VOUT \$28 VDD VSS sg13_lv_nmos L=0.15u W=250u AS=85p AD=85p PS=517u PD=517u
M$78 \$4 \$4 VSS VSS sg13_lv_nmos L=6.4u W=12u AS=3.18p AD=3.18p PS=19.06u
+ PD=19.06u
M$104 VDD \$27 VOUT$1 VSS sg13_lv_nmos L=0.15u W=250u AS=85p AD=85p PS=517u
+ PD=517u
M$129 \$4 \$8 \$8 VSS sg13_lv_nmos L=1u W=2u AS=0.68p AD=0.68p PS=4.68u PD=4.68u
M$130 CMFB|CMFBout CMFB|CMFBout VSS VSS sg13_lv_nmos L=0.2u W=29.97u AS=6.1938p
+ AD=5.6943p PS=37.02u PD=33.39u
M$139 VSS \$145 \$145 VSS sg13_lv_nmos L=0.2u W=29.97u AS=5.6943p AD=6.1938p
+ PS=33.39u PD=37.02u
M$164 IB|I_P IB|I_P VSS VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=1.632p
+ PS=10.28u PD=10.28u
M$165 \$256 IB|I_P VSS VSS sg13_lv_nmos L=1.06u W=4.8u AS=1.632p AD=0.912p
+ PS=10.28u PD=5.18u
M$166 VSS IB|I_P \$272 VSS sg13_lv_nmos L=1.06u W=4.8u AS=0.912p AD=1.632p
+ PS=5.18u PD=10.28u
M$167 \$271 \$271 VSS VSS sg13_lv_nmos L=0.8u W=0.5u AS=0.17p AD=0.17p PS=1.68u
+ PD=1.68u
M$168 \$258 CMFB|CMFBin VSS VSS sg13_lv_nmos L=0.2u W=179.82u AS=34.6653p
+ AD=34.6653p PS=203.97u PD=203.97u
M$222 VIN|VINP|VOUTN|VOUTP IB|I_P VSS VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p
+ AD=53.76p PS=310.4u PD=310.4u
M$233 \$281 \$271 \$277 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$239 \$258 VINP|VPin \$281 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p
+ PS=51.4u PD=51.4u
M$251 \$258 VINN|VNin \$282 VSS sg13_lv_nmos L=0.15u W=33u AS=7.095p AD=7.095p
+ PS=51.4u PD=51.4u
M$263 \$282 \$271 \$278 VSS sg13_lv_nmos L=0.16u W=57u AS=12.255p AD=12.255p
+ PS=79.4u PD=79.4u
M$269 VSS IB|I_P VIN|VINN|VOUTN|VOUTP VSS sg13_lv_nmos L=1.06u W=264u AS=53.76p
+ AD=53.76p PS=310.4u PD=310.4u
M$452 VDD \$8 \$4 VDD sg13_lv_pmos L=2.5u W=12u AS=3.18p AD=2.28p PS=19.06u
+ PD=12.76u
M$454 VDD \$8 \$8 VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=2.28p PS=12.76u
+ PD=12.76u
M$456 VDD \$8 IB|I_P VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=2.28p PS=12.76u
+ PD=12.76u
M$458 VDD \$8 IB|I_P2 VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=2.28p PS=12.76u
+ PD=12.76u
M$460 VDD \$8 IB|I_P3 VDD sg13_lv_pmos L=2.5u W=12u AS=2.28p AD=3.18p PS=12.76u
+ PD=19.06u
M$462 VDD \$25 \$28 VDD sg13_lv_pmos L=1u W=40u AS=9.1p AD=7.6p PS=51.82u
+ PD=41.52u
M$466 VDD \$25 \$25 VDD sg13_lv_pmos L=1u W=40u AS=7.6p AD=9.1p PS=41.52u
+ PD=51.82u
M$470 VDD \$26 \$26 VDD sg13_lv_pmos L=1u W=40u AS=9.1p AD=7.6p PS=51.82u
+ PD=41.52u
M$474 VDD \$26 \$27 VDD sg13_lv_pmos L=1u W=40u AS=7.6p AD=9.1p PS=41.52u
+ PD=51.82u
M$478 CMFB|CMFBout VIN|VINP|VOUTN|VOUTP \$149 VDD sg13_lv_pmos L=0.35u W=35.98u
+ AS=7.2217p AD=6.8362p PS=49.79u PD=46.62u
M$492 CMFB|CMFBout VIN|VINN|VOUTN|VOUTP \$150 VDD sg13_lv_pmos L=0.35u W=35.98u
+ AS=6.8362p AD=7.2217p PS=46.62u PD=49.79u
M$506 \$145 VREF \$149 VDD sg13_lv_pmos L=0.35u W=35.98u AS=7.2217p AD=6.8362p
+ PS=49.79u PD=46.62u
M$520 \$145 VREF \$150 VDD sg13_lv_pmos L=0.35u W=35.98u AS=6.8362p AD=7.2217p
+ PS=46.62u PD=49.79u
M$534 VDD IBIAS|I_N \$149 VDD sg13_lv_pmos L=0.7u W=144u AS=28.26p AD=27.36p
+ PS=206.52u PD=198.72u
M$558 VDD IBIAS|I_N \$150 VDD sg13_lv_pmos L=0.7u W=144u AS=27.36p AD=28.26p
+ PS=198.72u PD=206.52u
M$878 VDD IBIAS|I_N IBIAS|I_N VDD sg13_lv_pmos L=0.7u W=48u AS=9.27p AD=9.27p
+ PS=67.54u PD=67.54u
M$926 VDD \$277 VIN|VINP|VOUTN|VOUTP VDD sg13_lv_pmos L=0.35u W=342.5u
+ AS=70.2125p AD=70.2125p PS=479.25u PD=479.25u
M$936 VDD \$256 \$256 VDD sg13_lv_pmos L=0.35u W=11.2u AS=2.548p AD=2.548p
+ PS=17.64u PD=17.64u
M$944 \$272 \$272 VDD VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.697p AD=0.3895p
+ PS=4.78u PD=2.43u
M$945 VDD \$272 \$271 VDD sg13_lv_pmos L=0.35u W=2.05u AS=0.3895p AD=0.697p
+ PS=2.43u PD=4.78u
M$946 \$276 \$272 \$277 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p
+ AD=26.1225p PS=154.65u PD=154.65u
M$958 \$279 \$272 \$278 VDD sg13_lv_pmos L=0.5u W=121.5u AS=26.1225p
+ AD=26.1225p PS=154.65u PD=154.65u
M$970 VDD \$278 VIN|VINN|VOUTN|VOUTP VDD sg13_lv_pmos L=0.35u W=342.5u
+ AS=70.2125p AD=70.2125p PS=479.25u PD=479.25u
M$1022 VDD \$256 \$276 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p
+ PS=257.9u PD=257.9u
M$1028 VDD \$256 \$279 VDD sg13_lv_pmos L=0.7u W=210u AS=45.15p AD=45.15p
+ PS=257.9u PD=257.9u
R$1556 VSS \$2 rppd w=1u l=11.5u ps=0 b=0 m=1
R$1557 VN VNout rppd w=0.6u l=6.73u ps=0 b=0 m=1
R$1558 VP VPout rppd w=0.6u l=6.73u ps=0 b=0 m=1
R$1559 VNout VIN|VINP|VOUTN|VOUTP rppd w=0.6u l=19u ps=0 b=0 m=1
R$1560 VPout VIN|VINN|VOUTN|VOUTP rppd w=0.6u l=19u ps=0 b=0 m=1
R$1561 \$277 \$815 rppd w=1.5u l=0.55u ps=0 b=0 m=1
R$1562 \$278 \$816 rppd w=1.5u l=0.55u ps=0 b=0 m=1
C$1563 \$815 VIN|VINP|VOUTN|VOUTP cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
C$1564 \$816 VIN|VINN|VOUTN|VOUTP cap_cmim w=21.4u l=21.4u A=457.96p P=85.6u m=1
.ENDS OTA_Telescopic_TOP_wp
